US07183270B2
Part B. Preparation of 2-Amino-5-chloro-nicotinic acid ethyl ester
A solution of 2-amino-nicotinic acid ethyl ester (3.60 g, 21.7 mMol) in methanol (100 mL) was treated with HCl gas via sparge tube for 5 minutes, causing the colorless solution to turn yellow. The solution was concentrated in-vacuo, then stripped from methanol (2×50 mL) to remove excess HCl. The residue was dissolved in methanol (100 mL), treated with tert-butyl hypochlorite (2.6 g, 23.8 mMol), and the mixture was allowed to stir overnight at room temperature. Analysis by TLC showed that some starting material remained, so additional tert-butyl hypochlorite (0.47 g, 4.3 mMol) was added, and stirring was continued overnight. Analysis by TLC showed that all starting material had been consumed. The solution was concentrated in-vacuo, the residue was taken up in methylene chloride (150 mL), washed with saturated sodium bicarbonate (3×50 mL), 5% aqueous sodium thiosulfate (3×50 mL), water (50 mL), brine (50 mL), dried over sodium sulfate, and concentrated in-vacuo. The residue was purified over silica gel, eluting with 20%–30% ethyl acetate/heptane, to yield 1.50 g of colorless solids as product. MS (AP+)=201 (M+H)+. Yield=35%.

reactant | 2-amino-nicotinic acid ethyl ester | 21.7 mMol, 3.60 g | C(C)OC(C1=C(N=CC=C1)N)=O | C8H10N2O2
reactant | HCl | Cl | ClH
reactant | tert-butyl hypochlorite | 23.8 mMol, 2.6 g | ClOC(C)(C)C | C4H9ClO
reactant | tert-butyl hypochlorite | 4.3 mMol, 0.47 g | ClOC(C)(C)C | C4H9ClO
solvent | methanol | 100 mL | CO | CH4O
product | 2-Amino-5-chloro-nicotinic acid ethyl ester | 1.50 g, Yield=35% | C(C)OC(C1=C(N=CC(=C1)Cl)N)=O | C8H9ClN2O2
